US07534914B2
STEP 1. 5-Chloro-2-(isobutoxymethyl)benzoic acid
The title compound was prepared according to the procedure described in step 1 of Example 16 from methyl 2-(bromomethyl)-5-chlorobenzoate and 2-methylpropan-1-ol:

reactant | methyl 2-(bromomethyl)-5-chlorobenzoate | BrCC1=C(C(=O)OC)C=C(C=C1)Cl | C9H8BrClO2
solvent | 2-methylpropan-1-ol | CC(CO)C | C4H10O
product | 5-Chloro-2-(isobutoxymethyl)benzoic acid | ClC=1C=CC(=C(C(=O)O)C1)COCC(C)C | C12H15ClO3
